US07777047B2
N-[2-(8-benzyl-1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide
To a solution of N-[(1-benzyl-4-hydroxypiperidin-4-yl)methyl]-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (1.30 g) in a mixed solvent of toluene (60 ml) and tetrahydrofuran (30 ml) was added Lawesson's reagent (1.94 g), and the mixture was heated under reflux for 3 hr. The reaction solution was concentrated under reduced pressure, and the residue was purified by basic silica gel column chromatography (ethyl acetate:hexane=5:95-40:60), and recrystallized from ethyl acetate-hexane to give the title compound (0.063 g, yield 5%) as colorless crystals.

reactant | N-[(1-benzyl-4-hydroxypiperidin-4-yl)methyl]-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 1.30 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)CNC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C27H30N4O4S2
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
reactant | Lawesson's reagent | 1.94 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-[2-(8-benzyl-1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide | 0.063 g, yield 5% | C(C1=CC=CC=C1)N1CCC2(CN=C(S2)C=2NC3=C(C=CC=C3C2)N(S(=O)(=O)C=2SC=CC2)C)CC1 | C27H28N4O2S3
